US07125990B2
2-Methyl-6-oxo-7-(2,4,6-trimethyl-phenyl)-6,7-dihydro-5H-imidazol[1,2-a]imidazole-3-carboxylic acid ethyl ester, Scheme 5: (W)
A suspension of 2-bromo-5-methyl-3-[(2,4,6-trimethyl-phenylcarbamoyl)-methyl]-3H-imidazole-4-carboxylic acid ethyl ester (17.4 mg, 0.038 mmol) and silver carbonate (11.6 mg, 0.042 mmol) in sulfolane (0.5 mL) was heated at 150° C. for 4 h. The resulting reaction mixture was cooled to room temperature and filtered through a short pad of celite. The final purification was achieved by a reverse-phase preparative HPLC to give the desired product as white solid. Yield—12.2 mg (73%). 1H NMR (DMSO d-6, 500 MHz) δ 7.04 (s, 2H), 4.99 (s, 2H), 4.26 (q, J=7.2 Hz, 2H), 2.34 (s, 3H), 2.30 (s, 3H), 2.06 (s, 6H), 1.31 (t, J=7.2 Hz, 3H); LC/MS: tR=1.75 min., MS: [M+H]=328.

reactant | 2-bromo-5-methyl-3-[(2,4,6-trimethyl-phenylcarbamoyl)-methyl]-3H-imidazole-4-carboxylic acid ethyl ester | 0.038 mmol, 17.4 mg | C(C)OC(=O)C=1N(C(=NC1C)Br)CC(NC1=C(C=C(C=C1C)C)C)=O | C18H22BrN3O3
solvent | sulfolane | 0.5 mL | S1(=O)(=O)CCCC1 | C4H8O2S
catalyst | silver carbonate | 0.042 mmol, 11.6 mg | C([O-])([O-])=O.[Ag+2]
product | 2-Methyl-6-oxo-7-(2,4,6-trimethyl-phenyl)-6,7-dihydro-5H-imidazol[1,2-a]imidazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N=C2N1CC(N2C2=C(C=C(C=C2C)C)C)=O)C | C18H21N3O3
